US07700583B2
1-Morpholin-4-yl-2-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenylamino]-ethanone
To a solution of [4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]carbamic acid tert-butyl ester (0.5 g, 1.34 mmol) in dry DMF (40 ml) was added sodium hydride (80 mg, 3.33 mmol in 60% mineral oil) and the mixture was stirred for 30 min. 2-Chloro-1-morpholin-4-yl-ethanone (264 mg, 1.61 mmol) was added and the stirring was continued for an additional 1 hr. at 50° C. The reaction was quenched by addition of water (50 ml) and extracted with diethyl ether (2×25 ml). The combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The residue was dissolved in DCM (20 ml) and TFA (10 ml) was added. The resulting mixture was stirred for 4 hrs. at room temperature and evaporated in vacuo. The residue was purified by column chromatography (silica gel) using first EtOAc (500 ml) followed by 4% TEA in EtOAc as eluents. Semi-pure fractions were collected and evaporated to dryness affording 0.4 g as an oil which was dissolved in EtOAc (25 ml) and washed with water (2×25 ml), dried (Na2SO4), filtered and evaporated in vacuo affording 180 mg (34%) of the title compound as a oil.

reactant | [4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]carbamic acid tert-butyl ester | 1.34 mmol, 0.5 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C)=O | C22H32N2O3
reactant | sodium hydride | 3.33 mmol, 80 mg | [H-].[Na+]
reactant | 2-Chloro-1-morpholin-4-yl-ethanone | 1.61 mmol, 264 mg | ClCC(=O)N1CCOCC1 | C6H10ClNO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | 1-Morpholin-4-yl-2-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenylamino]-ethanone | 180 mg, 34% | N1(CCOCC1)C(CNC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C)=O | C23H33N3O3
